US07279481B2
3-{2-[4-(6-Fluoro-2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline
A solution of 6-fluoro-2-methyl-5-{4-[2-(3-nitrophenyl)ethyl]-1-piperazinyl}quinoline (0.05 g; 1 eq) in methanol (3 mL) was added dropwise to a suspension of iron powder (0.05 g; 7 eq) and ammonium chloride (0.05 g; 7 eq) in water (3 mL). The reactants were heated at reflux for 8 hours, with additional amounts of iron powder (total 0.05 g; 7 eq) and ammonium chloride (0.05 g; 7 eq) added in 3 portions during the reaction. The reaction mixture was cooled to room temperature and filtered using a Millipore filter. The filtrate was concentrated under reduced pressure, diluted with water (5 mL) and a saturated aqueous solution of sodium hydrogen carbonate (2 mL) and extracted into ethyl acetate (3×5 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure to give the title compound in 91% yield (0.04 g).

reactant | 6-fluoro-2-methyl-5-{4-[2-(3-nitrophenyl)ethyl]-1-piperazinyl}quinoline | 0.05 g, 1 eq | FC=1C(=C2C=CC(=NC2=CC1)C)N1CCN(CC1)CCC1=CC(=CC=C1)[N+](=O)[O-] | C22H23FN4O2
reactant | ammonium chloride | 0.05 g, 7 eq | [Cl-].[NH4+]
reactant | ammonium chloride | 0.05 g, 7 eq | [Cl-].[NH4+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
catalyst | iron | 0.05 g, 7 eq | [Fe] | Fe
catalyst | iron | 0.05 g, 7 eq | [Fe] | Fe
product | 3-{2-[4-(6-Fluoro-2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline | 91% yield | FC=1C(=C2C=CC(=NC2=CC1)C)N1CCN(CC1)CCC=1C=C(N)C=CC1 | C22H25FN4
